US08017804B2
Synthesis of N-lauryl-myristyl amine [#7]
18.54 g (100 mmol) dodecylamine (laurylamine), 6.36 g (60 mmol) Na2CO3 and 50 mg tetrabutyl ammonium iodide (TBAI) were suspended in 100 ml anhydrous DMF in a 500 ml 3-neck flask having a reflux condenser and a dropping funnel. A solution of 16.4 ml (60 mmol) 1-bromo tetradecane in 100 ml anhydrous dioxane were added dropwise at 100° C. over a period of 110 minutes and the mixture was steered for another 3.5 hours at 100° C. (FIG. 6). The solution was filtered at a temperature as hot as possible. The crystalline solid which precipitated at 4° C. over night, was removed and was washed with a little of cold methanol. Subsequently, the solid was re-crystallised from 200 ml methanol. 9 g of colourless leaf-like crystals were obtained which are re-crystallised from 100 ml MtBE. The crystals which precipitated at −18° C., were sucked off from a cooled frit and washed with cold MtBE. 7.94 g (21 mmol) of a colourless crystalline solid were obtained, corresponding to a yield of 35%.

reactant | dodecylamine | 100 mmol, 18.54 g | C(CCCCCCCCCCC)N | C12H27N
reactant | Na2CO3 | 60 mmol, 6.36 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1-bromo tetradecane | 60 mmol, 16.4 ml | BrCCCCCCCCCCCCCC | C14H29Br
catalyst | tetrabutyl ammonium iodide | 50 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-lauryl-myristyl amine | 21 mmol, 7.94 g, yield of 35% | C(CCCCCCCCCCC)NCCCCCCCCCCCCCC | C26H55N
